US04579857
1-(3-Mercaptopropyl)-5-phenyl-2-imidazolidinone
A mixture of 55.0 g of 3-phenyl-2,3,6,7-tetrahydro-5H-imidazo[2,1-b][1,3]thiazine and 540 ml of 0.5N sodium hydroxide solution is stirred and refluxed under nitrogen for thirty hours. The solution is cooled, neutralized to pH 8 with carbon dioxide and extracted with methylene chloride. The organic extracts are dried over magnesium sulfate, filtered and concentrated in vacuo to yield a colorless solid. Recrystallization from isopropyl acetate yields the product of this example, 53.8 g, m.p. 97°-99° C.

reactant | 3-phenyl-2,3,6,7-tetrahydro-5H-imidazo[2,1-b][1,3]thiazine | 55.0 g | C1(=CC=CC=C1)C1CN=C2SCCCN21 | C12H14N2S
reactant | carbon dioxide | C(=O)=O | CO2
solvent | sodium hydroxide | 0.5N, 540 ml | [OH-].[Na+]
product | 1-(3-Mercaptopropyl)-5-phenyl-2-imidazolidinone | SCCCN1C(NCC1C1=CC=CC=C1)=O | C12H16N2OS
